Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
asymptomatic hyponatremia

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ lady with Hepatitis C s/p Harvoni c 
undetectable viral load, hypothyroidism, and depression sent 
from hepatology office for hyponatremia. Patient has watery 
non-bloody BMs (one-two day), nausea, fatigued, low mood, and 
increasingly hypertensive for past 2 months. Had gone on a 
cruise to ___ right before the symptoms started in end of 
___. +Increased irritation, decreased appetite, cough w/ 
yellow mucous. No F/C, lightheadedness, syncope, abd pain, 
syncope, sick contacts, jaundice, BRBPR, melena, dysuria, no new 
meds (except harvoni), CP, SOB, and HA. No falls.  
 
___ COURSE
In the ___, initial vitals were: 97.2, 77, 182/91, 20, 100% RA  
- Labs were significant for Na 125  
- The patient was given 1L NS and 0.5mg clonazepam.  
Vitals prior to transfer were: ___, 75, 169/97, 16,100% RA  
Upon arrival to the floor, patient feels anxious and tired.  

 
Past Medical History:
1. Meningioma status post radiation therapy as well as surgery,  

 being followed at ___.  
2. Hepatitis C s/p Harvoni 
3. History of pyloric stenosis at birth.  
4. Status post appendectomy.  
5. Carpal tunnel syndrome s/p release  
6. Depression  
7. Hypothyroid  
 
Social History:
___
Family History:
She has a sister who died after an ERCP and liver biopsy as 
workup for jaundice. Her mother had cirrhosis, thought to be 
caused by hepatotoxic psychiatric medications leading to 
hepatocellular carcinoma.
 
Physical Exam:
ADMISSION:
Vitals: 98.5 BP 128/78 HR 67 RR18 99% RA  
General:  pleasant lady sitting in bed eating breakfast in NAD.
HEENT:  anicteric sclera, dry MM
Lungs: CTA b/l
CV:  RRR no m/r/g; No JVD
Abdomen:  soft, NTND
Ext:  no edema
Neuro: alert and oriented. 

DISCHARGE:
Vitals: 98.5 BP 128/78 HR 67 RR18 99% RA  
General:  pleasant lady sitting in bed eating breakfast in NAD.
HEENT:  anicteric sclera, dry MM
Lungs: CTA b/l
CV:  RRR no m/r/g; No JVD
Abdomen:  soft, NTND
Ext:  no edema
Neuro: alert and oriented. 
 
Pertinent Results:
BASIC ADMISSION LABS: 
___ 12:30PM BLOOD WBC-12.0* RBC-4.58 Hgb-13.7 Hct-37.7 
MCV-82 MCH-29.9 MCHC-36.3 RDW-12.3 RDWSD-36.8 Plt ___
___ 12:30PM BLOOD Neuts-30* Bands-0 Lymphs-57* Monos-5 
Eos-3 Baso-1 Atyps-4* ___ Myelos-0 AbsNeut-3.60 
AbsLymp-7.32* AbsMono-0.60 AbsEos-0.36 AbsBaso-0.12*
___ 12:30PM BLOOD UreaN-10 Creat-0.6 Na-125* K-4.7 Cl-86* 
HCO3-25 AnGap-19
___ 12:30PM BLOOD ALT-18 AST-30 AlkPhos-74 TotBili-0.6 
DirBili-0.2 

BASIC DISCHARGE LABS:
___ 06:45AM BLOOD WBC-10.1* RBC-4.02 Hgb-12.0 Hct-34.4 
MCV-86 MCH-29.9 MCHC-34.9 RDW-12.4 RDWSD-38.3 Plt ___
___ 06:45AM BLOOD Neuts-24* Bands-0 Lymphs-66* Monos-3* 
Eos-2 Baso-0 Atyps-5* ___ Myelos-0 AbsNeut-2.42 
AbsLymp-7.17* AbsMono-0.30 AbsEos-0.20 AbsBaso-0.00*
___ 06:45AM BLOOD Glucose-86 UreaN-8 Creat-0.7 Na-127* 
K-4.4 Cl-90* HCO3-30 AnGap-11
___ 06:45AM BLOOD Glucose-86 UreaN-8 Creat-0.7 Na-127* 
K-4.4 Cl-90* HCO3-30 AnGap-11
IndBili-0.4

OTHER IMPORTANT LABS/STUDIES:
___ 06:45AM BLOOD VitB12-358
___ 05:27PM BLOOD TSH-0.18*
___ 08:00AM BLOOD T4-9.9
___ 08:00AM BLOOD Cortsol-5.2
___ 04:57PM BLOOD PEP-NO SPECIFICIC ABNORMAL FINDINGS

FLOW CYTOMETRY PENDING AT DISCHARGE. 

MICROBIOLOGY/INFECTIOUS: 
___ 04:57PM BLOOD HIV Ab-Negative

IMAGING/OTHER STUDIES:
MRI BRAIN ___
1. Right mid parietal convexity dural-based mass measuring 1.5 x 
0.9 x 2.0 cm, likely representing a meningioma. 
2. Bilateral anterior temporal and mesial temporal subcortical 
white matter FLAIR hyperintensity which is nonspecific and may 
represent sequela of prior trauma, radiation, or an 
infectious/inflammatory process.  Recommend clinical 
correlation. 
3. Bilateral maxillary sinus disease with an air-fluid level in 
left maxillary sinus which may be seen with acute sinusitis. 
4. Partially empty sella and absence of the posterior pituitary 
bright spot. Normal morphology and enhancement of the 
infundibulum. 

CT CHEST ___
No evidence of active intrathoracic infection or malignancy. No 
lymphadenopathy within the thorax. 

CT ABDOMEN ___. Soft tissue oval density at the porta hepatis measuring 2.2 x 
1.6 cm, 
likely representing an enlarged node/nodal conglomerate. 
2. No splenomegaly. 
3. No acute process in the abdomen or pelvis. 

 
Brief Hospital Course:
___ year old lady with hx of hypothyroidism, chronic hep C s/p 
Harvoni (undetectable VL) presented from liver clinic with 
asymptomatic hyponatremia of 124. Patient also noted malaise and 
fatigue over the past several months. 

Hyponatremia:
 Patient presented with no alterations in mental status and 
initially thought to be hypovolemic given recent poor PO intake. 
However, Na did not change dramatically to fluid resuscitation. 
Urine studies c/w SIADH. Did not want to give salt tabs due to 
borderline hypertension. Sodium trended but stable at discharge. 
Patient with no pulmonary infection. She does have a history of 
meningioma. While this tumor is not typically associated with 
hyponatremia, MRI noted partially empty sella and absence of the 
posterior pituitary bright spot. Thus, pituitary involvement may 
explain hyponatremia. ___ benefit from correlating with prior 
imaging at ___. 

Lymphocytosis: 
Also noted to have lymphocytic predominant WBC diff with some 
atypical lymphocytes. In setting of two months of symptoms of 
viral illness, concern this may represent infection versus 
occult malignancy. Evaluated by Heme/Onc. CT torso showing no 
evidence of LAD and MRI brain stable (hx of meningioma). Flow 
cytometry and infectious studies pending at time of discharge. 
Patient set up to follow closely with PCP and will visit 
heme/onc to discuss results of flow cytometry.

Sinusitis: 
Patient endorsing congestion, fatigue, and nasal discharge. 
Written for course of augment at time of discharge. 

TRANSITIONAL ISSUES
- CODE STATUS: Full Code 
- CONTACT: ___ (son, HCP) ___ ; ___ 
(boyfriend) 
- Patient should have a BMP on ___ PCP appt to monitor sodium.
- Flow cytometry pending at time of discharge. 
- MRI brain here with evidence of pituitary involvement of known 
meningioma, needs to follow up with regular doctors at ___. This 
is likely cause of SIADH. 
- BP noted to be elevated on arrival (likely ___ to stress) but 
otherwise normotensive throughout hospitalization. Please 
continue to monitor. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion (Sustained Release) 300 mg PO QAM 
2. ClonazePAM 0.5 mg PO QHS 
3. Levothyroxine Sodium 75 mcg PO DAILY 

 
Discharge Medications:
1. BuPROPion (Sustained Release) 300 mg PO QAM 
2. ClonazePAM 0.5 mg PO QHS 
3. Levothyroxine Sodium 75 mcg PO DAILY 
4. Amoxicillin-Clavulanic Acid ___ mg PO Q12H sinusitis 
Duration: 10 Days 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 by mouth twice a 
day Disp #*20 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
primary diagnosis: hyponatremia; subacute sinusitis. 

secondary diagnosis: history of meningioma, hepatitis C. 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a privilege to care for you at the ___ 
___. You were admitted to the hospital after it was 
discovered that the level of sodium in your blood was very low, 
a condition known as hyponatremia. While you did not have 
symptoms,  you needed to be monitored to make sure that the 
sodium did not continue dropping to dangerous levels.  There are 
many reasons for this, but it likely is due to your known 
meningiomas. However, your doctors at ___ need to compare 
this to previous imaging studies to know for certain. Please 
limit yourself to 1.5 L of fluid daily.

The MRI of your brain also revealed evidence of sinusitis. For 
this infection, you will need to take 10 ten days of 
antibiotics. 

You will take 875mg twice daily for ten days.

You will need to follow up with ___ by following the 
instructions below. Please get to the hospital sooner if you 
develop any danger symptoms listed below. 
Dear Ms. ___, 

It was a privilege to care for you at the ___ 
___. You were admitted to the hospital after it was 
discovered that the level of sodium in your blood was very low, 
a condition known as hyponatremia. While you did not have 
symptoms,  you needed to be monitored to make sure that the 
sodium did not continue dropping to dangerous levels.  There are 
many reasons for this, but it likely is due to your known 
meningiomas. However, your doctors at ___ need to compare 
this to previous imaging studies to know for certain. Please 
limit yourself to 1.5 L of fluid daily.

The MRI of your brain also revealed evidence of sinusitis. For 
this infection, you will need to take 10 ten days of 
antibiotics. 

You will take 875mg twice daily for ten days.

You will need to follow up with ___ by following the 
instructions below. Please get to the hospital sooner if you 
develop any danger symptoms listed below. 
 
Followup Instructions:
___